US07465811B2
[[2-[3-(Dimethylamino)propoxy]phenyl]methyl]carbamic acid phenylmethyl ester
By following a procedure analogous to Preparation XCVI starting from the benzyl ester of [(2-hydroxyphenyl)methyl]carbamic acid and 3-(dimethylamino)propanol, the expected product is obtained in the form of a colorless oil (yield=81%).

reactant | [(2-hydroxyphenyl)methyl]carbamic acid | OC1=C(C=CC=C1)CNC(O)=O | C8H9NO3
reactant | 3-(dimethylamino)propanol | CN(CCCO)C | C5H13NO
product | [[2-[3-(Dimethylamino)propoxy]phenyl]methyl]carbamic acid phenylmethyl ester | C1(=CC=CC=C1)COC(NCC1=C(C=CC=C1)OCCCN(C)C)=O | C20H26N2O3
